US07598423B2
Synthesis of 4-(3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-3H-thiazol-2-one
Heat a solution of 1-(3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-2-chloro-ethanone (0.075 mg, 0.163 mmol) and potassium thiocyanate (159 mg, 1.63 mmol) in ethanol (0.20M) overnight at 70° C. Evaporate solvents and chromatograph residue. Major fraction isolated was the title compound (0.005 g, 0.010 mmol, 6.1%): 1H NMR (400 MHz, DMSO-d6) δ 2.61 (s, 3H), 5.10 (s, 2H), 5.30 (s, 2H), 5.82 (s, 1H), 6.11 (s, 1H), 6.88 (d, J=9.8 Hz, 1H), 7.41 (m, 4H), 7.49 (m, 1H), 7.71 (d, J=7.4 Hz, 1H), 7.87 (d, J=7.8 Hz, 1H), 7.92 (d, J=9.4 Hz, 1H), 8.04 (s, 1H), 13.12 (s, 1H). MS (m/z): 480 (M−H).

reactant | 1-(3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-2-chloro-ethanone | 0.163 mmol, 0.075 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C=CC2)C(CCl)=O)O)C=C1)Cl)O | C24H20Cl2O5
reactant | potassium thiocyanate | 1.63 mmol, 159 mg | [S-]C#N.[K+]
reactant | ethanol | 0.20M | C(C)O | C2H6O
product | 4-(3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-3H-thiazol-2-one | 0.010 mmol, 0.005 g, 6.1% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C=CC2)C=2NC(SC2)=O)O)C=C1)Cl)O | C25H20ClNO5S
